US08497376B2
b. 4-(1,5-Bis-methoxymethyl-8-oxa-bicyclo[3.2.1]octa-2, 6-dien-3-yl)-phenylamine
The title compound was prepared by the procedure of Example 4, step (b) using trifluoromethanesulfonic acid 1,5-bis-methoxymethyl-8-oxa-bicyclo[3.2.1]octa-2,6-dien-3-yl ester (as prepared in the previous step, 3.25 g, 9.45 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (2.28 g, 10.4 mmol). Silica gel chromatography (5-10% EtOAc/DCM) afforded the title compound (2.19 g, 81%) as a light brown oil. Mass spectrum (ESI, m/z): Calcd. for C17H21NO3, 288.2 (M+H), found 288.2.

reactant | trifluoromethanesulfonic acid 1,5-bis-methoxymethyl-8-oxa-bicyclo[3.2.1]octa-2,6-dien-3-yl ester | COCC12C=C(CC(C=C1)(O2)COC)OS(=O)(=O)C(F)(F)F | C12H15F3O6S
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 10.4 mmol, 2.28 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
solvent | EtOAc DCM | CCOC(=O)C.C(Cl)Cl
product | 4-(1,5-Bis-methoxymethyl-8-oxa-bicyclo[3.2.1]octa-2, 6-dien-3-yl)-phenylamine | 2.19 g, 81% | COCC12C=C(CC(C=C1)(O2)COC)C2=CC=C(C=C2)N | C17H21NO3
